US06939887B2
Synthesis of 1-(4-chlorophenyl)-3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carboxamide trifluoroacetate
1-(4-Chlorophenyl)-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carbonitrile (0.1767 g) was dissolved in N,N-dimethylformamide (5 ml), and to the solution was added sodium hydride (27.2 mg). The mixture was stirred at room temperature for 5 minutes. To the mixture were added 2-chlorotriethylamine hydrochloride (117.1 mg) and triethylamine (0.109 ml), and the mixture was stirred at 60-70° C. for 1 hour. After allowing to cool, to the reaction mixture was added saturated aqueous sodium bicarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resultant residue was dissolved in 2-methyl-2-propanol (15 ml) and heated at 50° C. To the solution was added powdered potassium hydroxide (0.7340 g), and the mixture was stirred for 1 hour. After allowing to cool, to the reaction mixture was added saturated aqueous sodium bicarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resultant residue was purified by HPLC using condition 1 to give the title compound (90.4 mg, 30%).

reactant | 1-(4-Chlorophenyl)-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carbonitrile | 0.1767 g | ClC1=CC=C(C=C1)N1C(NC2=C1C(=CC(=C2)C#N)C(F)(F)F)=O | C15H7ClF3N3O
reactant | sodium hydride | 27.2 mg | [H-].[Na+]
reactant | 2-chlorotriethylamine hydrochloride | 117.1 mg | CCN(CC)CCCl.Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.109 ml | C(C)N(CC)CC | C6H15N
product | 1-(4-chlorophenyl)-3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carboxamide trifluoroacetate | 90.4 mg, 30% | FC(C(=O)O)(F)F.ClC1=CC=C(C=C1)N1C(N(C2=C1C(=CC(=C2)C(=O)N)C(F)(F)F)CCN(CC)CC)=O | InChI=1S/C21H22ClF3N4O2.C2HF3O2/c1-3-27(4-2)9-10-28-17-12-13(19(26)30)11-16(21(23,24)25)18(17)29(20(28)31)15-7-5-14(22)6-8-15;3-2(4,5)1(6)7/h5-8,11-12H,3-4,9-10H2,1-2H3,(H2,26,30);(H,6,7)
